US05036064
1.00 g of (6R,7R)-7-amino-3-[[(7-methylpyrazolo-[1,5-a]pyrimidin -5-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid was brought into solution in 5 ml of acetonitrile and 5 ml of water with 0.37 ml of triethylamine. The solution was treated with 1.0 g of 2-amino-4-thiazolethioglyoxylic acid S-(2-benzothiazolyl) ester and stirred at 20° for 1 hour. The reaction mixture was partitioned between water and ethyl acetate and the aqueous phase was chromatographed on Optiup (C12) (Antec AG, CH-Bennwil) with a gradient of 0% to 10% acetonitrile in water. The product fractions Were concentrated to 10 ml and adjusted to pH 2.2 with HCl. The precipitate was filtered off under suction. There was obtained (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido)-3-[[7-methylpyrazolo[1,5-a]pyrimidin-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[ 4.2.0]oct-2-ene-2-carboxylic acid as a yellow powder.

reactant | (6R,7R)-7-amino-3-[[(7-methylpyrazolo-[1,5-a]pyrimidin -5-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 1.00 g | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=2N(C(=C1)C)N=CC2 | C15H15N5O3S2
reactant | water | 5 ml | O | H2O
reactant | triethylamine | 0.37 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 8-oxo-5-thia-1-azabicyclo[ 4.2.0]oct-2-ene-2-carboxylic acid | O=C1CC2SCC=C(N12)C(=O)O | C7H7NO3S
